US04281141
3-(imidazol-4-yl)-2-(4-bromophenyl)-2-phenylpropanenitrile
A 10.0 g. portion of 2-(4-bromophenyl)-2-phenylacetonitrile was mixed with 1.76 g. of 50% sodium hydride in 20 ml. of dimethylformamide, and 2.81 g. of 4-chloromethylimidazole hydrochloride in 20 ml. of dimethylformamide was added. The reaction mixture was then stirred at 100° C. for 5 hours, and at ambient temperature for 16 hours. The reaction mixture was worked up as described in Example 1 to obtain 6.1 g. of the free base of the compound named in the heading above. The compound was converted to the maleate salt by contact with maleic acid, and the salt was crystallized from diethyl ether/acetone to obtain 7.80 g. of product, m.p. 121°-124° C.

reactant | 2-(4-bromophenyl)-2-phenylacetonitrile | BrC1=CC=C(C=C1)C(C#N)C1=CC=CC=C1 | C14H10BrN
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethylimidazole hydrochloride | Cl.ClCC=1N=CNC1
reactant | maleic acid | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(imidazol-4-yl)-2-(4-bromophenyl)-2-phenylpropanenitrile | N1C=NC(=C1)CC(C#N)(C1=CC=CC=C1)C1=CC=C(C=C1)Br | C18H14BrN3
